US08476434B2
To a slurry of NaH (60% in mineral oil, 0.109 g, 2.73 mmol) in THF (13 mL) in a sealable tube under nitrogen was added 1-(2-chloroethyl)-3-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)urea (0.537 g, 1.30 mmol) in portions. The reaction was sealed and heated to 80 deg. C. for 3 h. The reaction was cooled to ambient temperature and was concentrated under a stream of nitrogen. The resulting solid was suspended in 50 mL water, acidified to pH 1 with 6 N HCl, and filtered. The solid was rinsed with water, diethyl ether, and dried in vacuo to give 1-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)imidazolidin-2-one as a tan solid. MS m/z=377 [M+1]+. Calc'd for C20H20N6O2: 376.16.

reactant | NaH | 2.73 mmol, 0.109 g | [H-].[Na+]
reactant | 1-(2-chloroethyl)-3-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)urea | 1.30 mmol, 0.537 g | ClCCNC(=O)NC1=CC(=C(C=C1)OC1=NC=CC=C1C1=NC(=NC=C1)NC)C | C20H21ClN6O2
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 1-(3-methyl-4-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)phenyl)imidazolidin-2-one | CC=1C=C(C=CC1OC1=NC=CC=C1C1=NC(=NC=C1)NC)N1C(NCC1)=O | C20H20N6O2
